US07812043B2
Indole starting material:
N-(1H-indole-6-yl)-methanesulfonamide, R5X=cyclopropyl-methylbromide; NH2A=2-aminothiazole

reactant | N-(1H-indole-6-yl)-methanesulfonamide | N1C=CC2=CC=C(C=C12)NS(=O)(=O)C | C9H10N2O2S
reactant | cyclopropyl-methylbromide | C1(CC1)CBr | C4H7Br
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
product | Indole | N1C=CC2=CC=CC=C12 | C8H7N
